US06300352B1
3-Cyano-4-fluorobenzeneboronic Acid
A solution of n-butyllithium (5.6 ml, 2.5M in hexanes) was added over a 20 minute period to a solution of 5-bromo-2-fluorobenzonitrile and triisopropylborate (3.46 ml) in tetrahydrofuran (10 ml) at −78° C. The resulting solution was stirred at −78° C. for 30 minutes and then quenched by the addition of a 2M hydrochloric acid (20 ml) and extracted into ethyl acetate. The combined extracts were dried over anhydrous magnesium sulfate, filtered and concentrated. The residue was purified by trituration using diethyl ether: hexane 1:2 to afford the sub-title compound as a solid (1.24 g).

reactant | n-butyllithium | 2.5M, 5.6 ml | C(CCC)[Li]
reactant | 5-bromo-2-fluorobenzonitrile | BrC=1C=CC(=C(C#N)C1)F | C7H3BrFN
reactant | triisopropylborate | 3.46 ml | C(C)(C)OB(OC(C)C)OC(C)C | C9H21BO3
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 3-Cyano-4-fluorobenzeneboronic Acid | 1.24 g | C(#N)C=1C=C(C=CC1F)B(O)O | C7H5BFNO2
